US07691850B2
(a) phenylmethyl[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]carbamate
To a solution of 7-fluoro-2-(methyloxy)-8-[(2S)-2-oxiranyl]-1,5-naphthyridine (220 mg, 1.0 mmol) in acetonitrile (5 mL) were added phenylmethyl[(3R)-3-pyrrolidinylmethyl]carbamate (235 mg, 1.0 mmol) followed by Lithium perchlorate (106 mg, 1.0 mmol). After heated at 43° C. for 48 h, the resulting mixture was cooled down to room temperature, concentrated and purified with column chromatography (silica, 1-5% methanol in DCM (1% NH4OH)) to provide the title compound as an off-white solid (250 mg, 55%): LC/MS (ES) m/e 455 (M+H)+.

reactant | 7-fluoro-2-(methyloxy)-8-[(2S)-2-oxiranyl]-1,5-naphthyridine | 1.0 mmol, 220 mg | FC1=CN=C2C=CC(=NC2=C1[C@@H]1OC1)OC | C11H9FN2O2
reactant | phenylmethyl[(3R)-3-pyrrolidinylmethyl]carbamate | 1.0 mmol, 235 mg | C1(=CC=CC=C1)COC(NC[C@H]1CNCC1)=O | C13H18N2O2
reactant | Lithium perchlorate | 1.0 mmol, 106 mg | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | phenylmethyl[((3S)-1-{(2R)-2-[3-fluoro-6-(methyloxy)-1,5-naphthyridin-4-yl]-2-hydroxyethyl}-3-pyrrolidinyl)methyl]carbamate | 250 mg, 55% | C1(=CC=CC=C1)COC(NC[C@H]1CN(CC1)C[C@H](O)C1=C(C=NC2=CC=C(N=C12)OC)F)=O | C24H27FN4O4
